US07019003B2
N-Butylhydrazinecarboxylic acid phenyl ester
To a solution of butylhydrazine (370 mg, 4.20 mmol) and triethylamine (0.88 mL, 6.30 mmol) in dichloromethane (15 mL) at 0° C. was added phenyl chloroformate (0.53 mL, 4.20 mmol). The reaction mixture was stirred and allowed to warm up to room temperature overnight. Water (20 mL) was then added to the reaction mixture. The aqueous layer was extracted with dichloromethane (20 mL×2). The combined organic layers were dried (MgSO4). Filtration and evaporation under vacuum, followed by purification by flash column chromatography provided the title compound (250 mg, 29%). 1H NMR (400 MHz, CHCl3) δ 7.40-7.10 (m, 5H), 4.20 (t, J=7.1 Hz, 2H), 3.60 (br s, 2H), 1.71 (m, 2H), 1.41 (m, 2H), 0.98 (t, J=7.3 Hz, 3H). MH+209.

reactant | butylhydrazine | 4.20 mmol, 370 mg | C(CCC)NN | C4H12N2
reactant | triethylamine | 6.30 mmol, 0.88 mL | C(C)N(CC)CC | C6H15N
reactant | phenyl chloroformate | 4.20 mmol, 0.53 mL | ClC(=O)OC1=CC=CC=C1 | C7H5ClO2
reactant | Water | 20 mL | O | H2O
solvent | dichloromethane | 15 mL | ClCCl | CH2Cl2
product | N-Butylhydrazinecarboxylic acid phenyl ester | 250 mg, 29% | C1(=CC=CC=C1)OC(=O)N(N)CCCC | C11H16N2O2
